US08258141B2
J3: Di-Boc-[(1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl]-amine
Carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester (2.5 g, 7.29 mmol), di-t-butyl iminodicarboxylate (1.74 g, 8.02 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.33 g, 0.36 mmol) and triphenylphosphine (0.29 g, 1.09 mmol) are placed in an oven-dried flask under an atmosphere of argon. Dry deoxygenated THF (30 ml) is added and the reaction mixture is stirred at room temperature. The reaction is shown to be complete by LCMS after 3 hours. The solvent is removed in vacuo and the title compound is obtained after purification by flash column chromatography (silica, ethyl acetate/isohexane 4:1) 1H nmr (CDCl3, 400 MHz); 8.70 (s, 1H), 6.20 (m, 1H), 5.85 (m, 1H), 5.80 (m, 1H), 5.40 (m, 1H), 3.20 (m, 1H), 2.15 (m, 1H), 1.55 (s, 18H), MS (ES+) m/e 470 (MH+).

reactant | Carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester | 7.29 mmol, 2.5 g | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)=O | C13H12Cl2N4O3
reactant | di-t-butyl iminodicarboxylate | 8.02 mmol, 1.74 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | triphenylphosphine | 1.09 mmol, 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.36 mmol, 0.33 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Di-Boc-[(1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl]-amine | C(=O)(OC(C)(C)C)N([C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)C(=O)OC(C)(C)C | C20H25Cl2N5O4
